US06903120B2
4-(3-Methanesulfonyl-phenyl)-1-(tetrahydro-furan-2-ylmethyl)-piperidine
Beginning with 4-(3-methanesulfonyl-phenyl)-piperidine and tetrahydrofurfuryl chloride, the titled compound was recovered by the procedure described in Example 1. MS m/z (relative intensity, 70 eV) 323 (M+, 1), 252 (bp), 129 (9), 115 (6), 70 (17). Rf=0.3 (MeOH, 0.03 (EtOAc).

reactant | 4-(3-methanesulfonyl-phenyl)-piperidine | CS(=O)(=O)C=1C=C(C=CC1)C1CCNCC1 | C12H17NO2S
reactant | tetrahydrofurfuryl chloride | C(C1CCCO1)Cl | C5H9ClO
product | 4-(3-Methanesulfonyl-phenyl)-1-(tetrahydro-furan-2-ylmethyl)-piperidine | CS(=O)(=O)C=1C=C(C=CC1)C1CCN(CC1)CC1OCCC1 | C17H25NO3S
